US07553833B2
Preparation of Rac-E/Z-(1S,2S,6S)-6′-bromo-2-(3-chlorophenyl)-6-(1-methylethenyl)-spiro[cyclohexane-1,3′-[3H]indole]-2′,4(1′H)-dione-4-oxime
The suspension of rac-(1S,2S,6R)-6′-bromo-2-(3-chlorophenyl)-6-isopropenyl spiro[cyclohexane-1,3′-[3H]indole]-2′,4(1′H)-dione (0.23 g, 0.52 mmol) and NH4OH—HCl (0.1 g, 0.52 mmol) in EtOH-water (3/2, 20 mL) was allowed to reflux for 1 h. TLC analysis indicated the formation of desired product and complete consumption of starting material. The reaction was cooled to room temperature, and water was added. The mixture was extracted with ethyl acetate. The organic layer was separated, dried over MgSO4, and concentrated. The residue was purified by chromatography (EtOAc:hexanes=1:2, then 1:1) to give the title compound as a white solid (0.18 g, 75%): HRMS (ES+) m/z Calcd for C22H20BrClN2O2+H [(M+H)+]: 459.0470, Found: 459.0470.

reactant | rac-(1S,2S,6R)-6′-bromo-2-(3-chlorophenyl)-6-isopropenyl spiro[cyclohexane-1,3′-[3H]indole]-2′,4(1′H)-dione | 0.52 mmol, 0.23 g | BrC1=CC=C2C3(C(NC2=C1)=O)C(CC(CC3C(=C)C)=O)C3=CC(=CC=C3)Cl | C22H19BrClNO2
reactant | NH4OH—HCl | 0.52 mmol, 0.1 g | [OH-].[NH4+].Cl
solvent | EtOH water | 20 mL | CCO.O
product | Z-(1S,2S,6S)-6′-bromo-2-(3-chlorophenyl)-6-(1-methylethenyl)-spiro[cyclohexane-1,3′-[3H]indole]-2′,4(1′H)-dione-4-oxime | 0.18 g, 75% | BrC1=CC=C2[C@@]3(C(NC2=C1)=O)[C@@H](C\C(\C[C@H]3C(=C)C)=N/O)C3=CC(=CC=C3)Cl | C22H20BrClN2O2
